### PR TITLE
[Merged by Bors] - chore: cleanup API around LinearMap.injective_domRestrict_iff

### PR DESCRIPTION
**Pull request by ADedecker**
* Use `Disjoint` in [LinearMap.injective_domRestrict_iff](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Submodule/Ker.html#LinearMap.injective_domRestrict_iff), and simplify the proof greatly.
* Allow linear maps between two different spaces in [LinearMap.injective_restrict_iff_disjoint](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Submodule/Ker.html#LinearMap.injective_restrict_iff_disjoint), and rename it to `LinearMap.injective_restrict_iff` for consistency with the former
* Add `LinearMap.injective_codRestrict_iff` for completeness

Co-authored-by: @JonBannon 

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/Algebra/Module/Submodule/Ker.lean [hunk 1]
```diff
@@ -197,23 +197,21 @@ theorem ker_eq_bot {f : M →ₛₗ[τ₁₂] M₂} : ker f = ⊥ ↔ Injective
...
+@[simp]
+theorem injective_restrict_iff {p : Submodule R M} {q : Submodule R₂ M₂} {f : M →ₛₗ[τ₁₂] M₂}
+    (hf : ∀ x ∈ p, f x ∈ q) : Injective (f.restrict hf) ↔ Disjoint p (ker f) := by
+  simp [← ker_eq_bot, ker_restrict, disjoint_iff_comap_eq_bot]
+
+@[deprecated (since := "2026-07-01")]
+alias injective_restrict_iff_disjoint := injective_restrict_iff
+
+@[simp]
+theorem injective_codRestrict_iff {q : Submodule R₂ M₂} {f : M →ₛₗ[τ₁₂] M₂}
```
Comment (themathqueen) [inline Mathlib/Algebra/Module/Submodule/Ker.lean:212]: What do you think about the following: instead of having an `injective_codRestrict_iff` for every morphism, we do something like
```lean
@[simp] lemma LinearMap.coe_codRestrict {q : Submodule R₂ M₂} (f : M →ₛₗ[τ₁₂] M₂)
    (hf : ∀ x, f x ∈ q) : ⇑(f.codRestrict q hf) = Subtype.coind f hf := rfl

@[simp] lemma Subtype.injective_coind_iff {α β : Sort*} {f : α → β} {p : β → Prop}
    (h : ∀ (a : α), p (f a)) : (Subtype.coind f h).Injective ↔ f.Injective := by
  simp [Subtype.coind, Injective]
```
(the simp for `coe_codRestrict` would replace the one on `_apply`) and then by adding a `coe_codRestrict` for the rest of the morphisms, the simp will apply for them too. So we wouldn't necessarily need to duplicate them.

I think something similar can be done for the `restrict`? Maybe?

Comment (ADedecker) [reply Mathlib/Algebra/Module/Submodule/Ker.lean:212]: I'm not sure we want to simplify `LinearMap.coe_codRestrict` to `Set.codRestrict` (or `Subtype.coind`) by default. Note that [Set.injective_codRestrict](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Data/Set/Restrict.html#Set.injective_codRestrict) is already a `simp` lemma.

Comment (ADedecker) [reply Mathlib/Algebra/Module/Submodule/Ker.lean:212]: This definitely does not work for `restrict` though, because the statement is mathematically specific to linear maps.

Comment (themathqueen) [reply Mathlib/Algebra/Module/Submodule/Ker.lean:212]: What's the downsides of having `⇑(f.codRestrict q hf) = Subtype.coind f hf` be a simp?

In any case, can you add `Subtype.injective_coind_iff` (so that `Set.codRestrict` and `Subtype.coind` are more in sync)?

Comment (ADedecker) [reply Mathlib/Algebra/Module/Submodule/Ker.lean:212]: Well for example you can no longer do `simp [map_add]` because `simp` might turn things to bare functions and then `map_add` does not make sense anymore.

To be fair I still don't have a perfect mental picture here, but making this `simp` would require tweaking a *lot* of `simp` lemmas.

Comment (ADedecker) [reply Mathlib/Algebra/Module/Submodule/Ker.lean:212]: I added the subtype lemma (with naming adapted to `Subtype.coind_injective`, I claim local consitency matters more than global consistency).

**Review by themathqueen — COMMENTED** [review]
Thanks!

maintainer merge

File: Mathlib/Algebra/Module/Submodule/Ker.lean (hunk 1 above)
Comment (Vierkantor) [reply Mathlib/Algebra/Module/Submodule/Ker.lean:212]: > What's the downsides of having `⇑(f.codRestrict q hf) = Subtype.coind f hf` be a simp?

I think this could be a good idea (and lemmas of this form should generally be `@[simp]`ed). Note that [`codRestrict_apply`](https://leanprover-community.github.io/mathlib4_docs/Mathlib/Algebra/Module/Submodule/LinearMap.html#LinearMap.codRestrict_apply) is already `@[simp]` so I don't think the `map_add` objection applies.

In any case, I don't think this is relevant for this PR (we'd need to touch a lot more subobjects simultaneously).

**Review by Vierkantor — APPROVED** [review]
Nice work!

bors r+
